US04489087
Oxalyl chloride (3.0 ml) in methylene chloride (75 ml) was placed in a flask and cooled to -50° C. to -60° C. Dimethyl sulfoxide (5.1 ml) in 15 ml of methylene chloride was then added followed by 5.88 g of 1-(3-hydroxyoctyl)imidazole dissolved in 30 ml of methylene chloride. The reaction mixture was stirred for 30 minutes at the initial temperature. Triethylamine (21 ml) was added to the reaction mixture which was then allowed to warm to room temperature. Water (100 ml) was added, the organic layer separated and the aqueous layer extracted with methylene chloride (2×50 ml). The organic layers were dried over MgSO4 and the solvent removed to give 1-(octan-3-on-1-yl)imidazole as an oil.

reactant | Oxalyl chloride | 3.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl sulfoxide | 5.1 ml | CS(=O)C | C2H6OS
reactant | 1-(3-hydroxyoctyl)imidazole | 5.88 g | OC(CCN1C=NC=C1)CCCCC | C11H20N2O
reactant | Triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | 1-(octan-3-on-1-yl)imidazole | C(CC(CCCCC)=O)N1C=NC=C1 | C11H18N2O
